US09127024B2
Step 5: Synthesis of 3-acetoxy-4-allyl-2-methylbenzoic acid
4-Allyl-3-hydroxy-2-methylbenzoic acid (2.0 g, 10.4 mmol) was slurried in 6 ml water in a 500 ml round bottom flask, cooled in an ice bath, and stirred. Aqueous NaOH solution (4.2 g of 50% NaOH in 6 ml water) was added slowly. The mixture was stirred for few minutes until the solution was clear. Acetic anhydride was added drop wise until pH 6 was obtained, by that time the reaction mixture become a thick slurry with an off white color. The mixture was stirred overnight at room temperature. The reaction mixture became a thick white slurry. The pH was adjusted to 2 with conc. HCl. A precipitate formed, and was filtered under vacuum and dried. The combined dried product was dissolved in DCM and purified on an ISCO system using 40 g silica column and hexane/EtOAc solvent gradient. The product eluted ˜30% EtOAc in hexane, and the fractions were collected and dried under vacuum to give (2.4 g, 98%) SKC-01-116. 1H NMR (400 MHz, CDCl3) δ 12.0 (br s, 1H), 7.92 (d, J=8.1 Hz, 1H), 7.18 (d, J=8.1 Hz, 1H), 6.03-5.67 (m, 1H), 5.26-4.89 (m, 2H), 3.31 (d, J=6.6 Hz, 2H), 2.44 (s, 3H), 2.37 (s, 3H).

reactant | 4-Allyl-3-hydroxy-2-methylbenzoic acid | 10.4 mmol, 2.0 g | C(C=C)C1=C(C(=C(C(=O)O)C=C1)C)O | C11H12O3
reactant | NaOH | 6 ml, 4.2 g | [OH-].[Na+]
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
solvent | water | 6 ml | O | H2O
product | 3-acetoxy-4-allyl-2-methylbenzoic acid | C(C)(=O)OC=1C(=C(C(=O)O)C=CC1CC=C)C | C13H14O4
